US09302991B2
<Step-3>:(R)—N-(1-(5-chloro-6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 85% yield (3.56 g, a white solid) from 1-(5-chloro-6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone (2.88 g, 12.2 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(5-chloro-6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone | 12.2 mmol, 2.88 g | ClC=1C=C(C=NC1OCC(F)F)C(C)=O | C9H8ClF2NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(5-chloro-6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 85% yield | ClC=1C=C(C=NC1OCC(F)F)C(C)N[S@](=O)C(C)(C)C | C13H19ClF2N2O2S
